US04906669
4-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3-benzenediol (Compound 26)
3,7,11,15-Tetramethyl-2-hexadecen-1-ol(14.8 g; 50 mmole) in 15 ml of dioxane was dropwise added to 11.0 g (100 mmole) of 1,3-benzenediol and 4.3 g (30 mmole) of boron trifluoride ethyl etherate in 30 ml of diozane at room temperature over one hour. After stirring the reaction solution at that temperature overnight, the solution was poured into 75 ml of water and was extracted with isopropyl ether (100 ml). The extract was washed with 200 ml of water (3 times) and 200 ml of saturated aqueous solution of sodium chloride (3 times) followed by drying it over anhydrous magnesium sulfate, distilling off the solvent and subjecting the resulting residue to silica gel column chromatography to thereby obtain 2.80 g of the title compound from the fractions eluted with hexane-ethyl acetate (3:1). Yield=14%.

reactant | 3,7,11,15-Tetramethyl-2-hexadecen-1-ol | 50 mmole, 14.8 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | 1,3-benzenediol | 100 mmole, 11.0 g | C1(=CC(=CC=C1)O)O | C6H6O2
reactant | boron trifluoride ethyl etherate | 30 mmole, 4.3 g | B(F)(F)F.CCOCC
reactant | water | 75 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3-benzenediol | 2.80 g, Yield=14% | CC(=CCC1=C(C=C(C=C1)O)O)CCCC(CCCC(CCCC(C)C)C)C | C26H44O2
